### PR TITLE
[Merged by Bors] - refactor(NumberTheory/LSeries): merge `QuadraticNonvanishing` into `Nonvanishing`

### PR DESCRIPTION
**Pull request by loefflerd**
The proof of non-vanishing of Dirichlet L-functions on `re s = 1` was written in two chunks, since the case of quadratic characters at `s = 1` needs to be handled separately. This PR merges together the two files, and makes one more theorem private since it is superseded by more general results proved later on, rendering the case split in the proof invisible to end-users.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 1]
```diff
@@ -1,33 +1,219 @@
...
+  have := riemannZeta_neg_two_mul_nat_add_one 0
+  rw [Nat.cast_zero, zero_add, mul_one] at this
+  rw [F, ofReal_neg, ofReal_ofNat, Function.update_noteq (mod_cast (by omega : (-2 : ℤ) ≠ 1)),
+    this, zero_mul]
+
+end BadChar
+
+/-- If `χ` is a nontrivial quadratic Dirichlet character, then `L(χ, 1) ≠ 0`. This is private
+since it is later superseded by `LFunction_apply_one_ne_zero`. -/
+private theorem LFunction_at_one_ne_zero_of_quadratic {χ : DirichletCharacter ℂ N}
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:195]: One could change the name to say `..._apply_one_...` instead of `..._at_one_...`, which would be more conforming to the naming conventions, but as this is now `private` anyway, it doesn't really matter.

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 2]
```diff
@@ -96,7 +278,7 @@ private lemma one_lt_re_one_add {x : ℝ} (hx : 0 < x) (y : ℝ) :
 
 open scoped LSeries.notation in
 /-- For positive `x` and nonzero `y` and a Dirichlet character `χ` we have that
-`|L(χ^0, x)^3 L(χ, x+iy)^4 L(χ^2, x+2iy)| ≥ 1. -/
+`|L(χ^0, 1 + x)^3 L(χ, 1 + x + I * y)^4 L(χ^2, 1 + x + 2 * I * y)| ≥ 1. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:281]: Thanks for fixing that!

**Review by MichaelStollBayreuth — APPROVED** [review]
Thanks! I would have done it today, but you beat me to it.

**Comment by loefflerd** [comment]
Thanks for the quick review! I have applied the fix you suggested.

**Comment by MichaelStollBayreuth** [comment]
I was involved in writing and PRing the code in the first place, but since this PR essentially just moves code from one file to another, I hope it is OK if I hit

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
